US08334287B2
4-[2,5-dimethyl-4-m-tolylethynyl-imidazol-1-yl]-1-methyl-1H-pyridin-2-one
The title compound, brown solid, MS: m/e=318.2 (M+H+), was prepared in accordance with the general method of example 3 from 4-[2,5-dimethyl-4-m-tolylethynyl-imidazol-1-yl]-1H-pyridin-2-one and methyl iodide.

reactant | 4-[2,5-dimethyl-4-m-tolylethynyl-imidazol-1-yl]-1H-pyridin-2-one | CC=1N(C(=C(N1)C#CC=1C=C(C=CC1)C)C)C1=CC(NC=C1)=O | C19H17N3O
reactant | methyl iodide | CI | CH3I
product | 4-[2,5-dimethyl-4-m-tolylethynyl-imidazol-1-yl]-1-methyl-1H-pyridin-2-one | CC=1N(C(=C(N1)C#CC=1C=C(C=CC1)C)C)C1=CC(N(C=C1)C)=O | C20H19N3O
